US08097610B2
Preparation of 4-[2-(t-butyldimethylsilyloxy)ethyl]-1-(6-trifluoromethyl benzothiazole-2-yl)piperidine-4-carbonitrile
To a solution of 1-(6-trifluoromethyl benzothiazole-2-yl)piperidine-4-carbonitrile (1.00 g) in tetrahydrofuran (10 mL) was added lithium bis(trimethylsilyl)amide (3.21 mL) at −15° C. To the reaction solution was added (2-bromoethoxy)-t-butyldimethyl silane (689 μL). The mixture was stirred at 0° C. for 3 hours. To the reaction solution was added brine and extracted with ethyl acetate. The organic layer was washed with water and brine, and dried over magnesium sulphate. The solvent was evaporated under reduced pressure and the obtained residue was purified by column chromatograph on silica gel to give the title compound (1.23 g). Yield: 82%.

reactant | 1-(6-trifluoromethyl benzothiazole-2-yl)piperidine-4-carbonitrile | 1.00 g | FC(C1=CC2=C(N=C(S2)N2CCC(CC2)C#N)C=C1)(F)F | C14H12F3N3S
reactant | lithium bis(trimethylsilyl)amide | 3.21 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | (2-bromoethoxy)-t-butyldimethyl silane | 689 μL | BrCCO[Si](C)(C)C(C)(C)C | C8H19BrOSi
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | 4-[2-(t-butyldimethylsilyloxy)ethyl]-1-(6-trifluoromethyl benzothiazole-2-yl)piperidine-4-carbonitrile | 1.23 g, Yield: 82% | [Si](C)(C)(C(C)(C)C)OCCC1(CCN(CC1)C=1SC2=C(N1)C=CC(=C2)C(F)(F)F)C#N | C22H30F3N3OSSi
